US08476432B2
tert-Butyl-2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]acetate (10.0 g) and dichloromethane (60.0 mL) were added to a reactor. The reaction mixture was cooled to 0˜5° C. Triethylamine (12.9 mL) and methanesulfonyl chloride (3.6 mL) was added to the reaction mixture, which was then stirred at 0˜5° C. for 1 hour. Water (500.0 mL) was added to the reaction mixture under stirring. The separated organic layer was concentrated under reduced pressure. Methanol (40.0 mL), water (20.0 mL), and sodium hydroxide (3.4 g) were added to the resulting residue. The reaction mixture was stirred at 40° C. for over 12 hours and then concentrated under reduced pressure. Water (30.0 mL) and ethyl acetate (60.0 mL) were added to the resulting residue and then the pH of the reaction mixture was adjusted to 2.0˜4.0 using 6N hydrochloric acid solution. The separated organic layer was concentrated under reduced pressure to obtain [(4R,6S)-6-methanesulfonyloxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-acetic acid as a gel form (10.0 g, yield 92%).

reactant | tert-Butyl-2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]acetate | 10.0 g | C(C)(C)(C)OC(C[C@@H]1OC(O[C@@H](C1)CO)(C)C)=O | C13H24O5
reactant | dichloromethane | 60.0 mL | ClCCl | CH2Cl2
reactant | Triethylamine | 12.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | Water | 500.0 mL | O | H2O
product | [(4R,6S)-6-methanesulfonyloxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-acetic acid | yield 92% | CS(=O)(=O)OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)O | C10H18O7S
